US07612067B2
Preparation of 3-(5-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a solution of 3-(3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine. (1.15 g, 3.44 mmol) and CH2Cl2 (12 mL) is added NBS (0.64 g, 3.62 mmol). The solution is stirred at ambient temperature overnight, washed with water (2×75 mL), brine (75 mL), dried over Na2SO4, filtered and concentrated to furnish the title compound (1.36 g, 3.29 mmol, 96%). 1H NMR (CDCl3), δ 0.88 (t, J=7.5 Hz, 6H), 1.74-1.92 (m, 4H), 2.49 (s, 3H), 2.53 (s, 3H), 3.26-3.36 (m, 1H), 6.70 (s, 1H), 7.07 (s, 1H). LC/MS (m/z): calcd. for C17H19BrClN3S (M+H)+: 412.1; found: 412.0.

reactant | 3-(3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | ClC1=C(SC=C1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C17H20ClN3S
reactant | NBS | 3.62 mmol, 0.64 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 3.29 mmol, 1.36 g, 96% | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)Cl | C17H19BrClN3S
